US08877815B2
[(S)-2-(3′-Methyl-biphenyl-4-yl)-1-(1H-tetrazol-5-yl)-ethyl]-carbamic acid tert-butyl ester (560 mg, 1.48 mmol) was treated with 4M HCl in dioxane (10 mL) at room temperature for 2 hours. The reaction mixture was concentrated in vacuo to give (S)-2-(3′-methyl-biphenyl-4-yl)-1-(1H-tetrazol-5-yl)-ethylamine hydrochloride; MS: m/z (MH+) 280; Retention time=1.14 min. (condition A).

reactant | [(S)-2-(3′-Methyl-biphenyl-4-yl)-1-(1H-tetrazol-5-yl)-ethyl]-carbamic acid tert-butyl ester | 1.48 mmol, 560 mg | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)C)C1=NN=NN1)=O | C21H25N5O2
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (S)-2-(3′-methyl-biphenyl-4-yl)-1-(1H-tetrazol-5-yl)-ethylamine hydrochloride | Cl.CC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@@H](C1=NN=NN1)N | InChI=1S/C16H17N5.ClH/c1-11-3-2-4-14(9-11)13-7-5-12(6-8-13)10-15(17)16-18-20-21-19-16;/h2-9,15H,10,17H2,1H3,(H,18,19,20,21);1H/t15-;/m0./s1
